US06169090A
A solution of 4-(7-methoxyfuro[2,3-c]pyridin-2-yl)tetrahydopyran-4-ol (2.5 g) in dry dichloromethane (50 ml) was stirred at 0° C. under an atmosphere of dry nitrogen. Triethylamine (5.6 ml) was added followed by methanesulfonyl chloride (2.3 ml). The mixture was stirred overnight at room temperature. The solvent was removed in vacuo. Purification by column chromatography on silica eluting with 50% hexane in ethyl acetate gave 2-(3,6-dihydro-2H-pyran-4-yl)-7-methoxyfuro[2,3-c]pyridine (2.5 g) as a colourless oil.

reactant | 4-(7-methoxyfuro[2,3-c]pyridin-2-yl)tetrahydopyran-4-ol | 2.5 g | COC=1N=CC=C2C1OC(=C2)C2(CCOCC2)O | C13H15NO4
reactant | Triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.3 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(3,6-dihydro-2H-pyran-4-yl)-7-methoxyfuro[2,3-c]pyridine | 2.5 g | O1CCC(=CC1)C1=CC=2C(=C(N=CC2)OC)O1 | C13H13NO3
